US07468376B2
a) Nicotinoyl Chloride Hydrochloride
A solution of nicotinic acid (0.50 g, 4.0 mmol) and POCl3 (5 mL) was heated at reflux for 1.5 h and concentrated. The product obtained was directly used in the next reaction.

reactant | nicotinic acid | 4.0 mmol, 0.50 g | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | POCl3 | 5 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | Nicotinoyl Chloride Hydrochloride | Cl.C(C1=CN=CC=C1)(=O)Cl | InChI=1S/C6H4ClNO.ClH/c7-6(9)5-2-1-3-8-4-5;/h1-4H;1H
